US07595415B2
Synthesis of (4-methoxyphenyl)propionic acid
1-(2,2-dibromovinyl)-4-methoxybenzene (17.38 g, 59.5 mmol) prepared in Reference Synthetic Example 1 was dissolved in tetrahydrofuran (230 ml) in nitrogen atmosphere, and a 2.59 mol/l n-butyllithium/hexane solution was dropwise added at −78° C. After the dropwise addition, the solution was returned to 0° C. and stirred for 90 minutes, and then cooled to −78° C. again, and crushed dry ice was added. After stirring for 30 minutes, water was added to the solution and the solution was concentrated under reduced pressure. The residue was diluted with diethyl ether, and extracted with a 1 mol/l sodium hydroxide aqueous solution twice. The obtained aqueous layer was acidified (pH=1) with hydrochloric acid and extracted with ethyl acetate twice. The obtained organic layer was washed with water and a saturated salt solution, dried over anhydrous sodium sulfate, subjected to filtration and concentrated under reduced pressure to give the desired compound (4-methxoyphenyl)propionic acid (9.73 g, 93%) as crude crystals.

reactant | 1-(2,2-dibromovinyl)-4-methoxybenzene | 59.5 mmol, 17.38 g | BrC(=CC1=CC=C(C=C1)OC)Br | C9H8Br2O
reactant | n-butyllithium hexane | 2.59 mol/l | C(CCC)[Li].CCCCCC
reactant | dry ice | C(=O)=O | CO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
product | (4-methoxyphenyl)propionic acid | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
